US08981085B2
A solution of (R)-tert-butyl 1-(5-bromo-3-(2-fluoro-5-methylbenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (120 mg, 0.22 mmol) in DCM (3 mL) was treated with TFA followed by 1M HCl as described in Example 62, Step C, to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-fluoro-5-methylbenzamide hydrochloride (0.070 g, 61% yield). 1H NMR (400 MHz, D2O) δ 8.17 (s, 1H), 7.50-7.48 (m, 1H), 7.45 (s, 1H), 7.33-7.30 (m, 1H), 7.09-7.04 (m, 1H), 3.50-3.48 (m, 1H), 3.31-3.29 (m, 2H), 3.18-3.13 (m, 1H), 3.06-3.03 (m, 1H), 1.86-1.82 (m, 1H), 1.68-1.64 (m, 1H), 1.43-1.41 (m, 2H); LCMS (APCI+) m/z 446, 448 (M+H)+.

reactant | (R)-tert-butyl 1-(5-bromo-3-(2-fluoro-5-methylbenzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.22 mmol, 120 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=C(C=CC(=C2)C)F)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C25H29BrFN5O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1M | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-fluoro-5-methylbenzamide hydrochloride | 0.070 g, 61% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=C(C=CC(=C2)C)F)=O | InChI=1S/C20H21BrFN5O.ClH/c1-11-4-5-15(22)13(7-11)20(28)26-16-9-25-19-17(16)18(14(21)8-24-19)27-6-2-3-12(23)10-27;/h4-5,7-9,12H,2-3,6,10,23H2,1H3,(H,24,25)(H,26,28);1H/t12-;/m1./s1
